US04051254
3-methyl-4-(α-phenoxypropionamido)phenyl N-methylcarbamate
3-methyl-4-aminophenyl N-methylcarbamate (1.8g., 0.01 mole), triethylamine (1.31g., 0.013 mole), and a solvent mixture of acetonitrile (20 ml.) and benzene (20 ml.) was stirred while a benzene solution of α-phenoxypropionyl chloride was added dropwise. The resulting mixture was refluxed for a short time, cooled, and solvents removed under reduced pressure to yield a tacky residue. This residue was dissolved in a minimum of hot 50% aqueous ethanol. Addition of more water and cooling produced a white precipitate of the desired product (3 grams, m.p. 123°-25° C.).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.01 mole, 1.8g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | triethylamine | 0.013 mole, 1.31g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | α-phenoxypropionyl chloride | O(C1=CC=CC=C1)C(C(=O)Cl)C | C9H9ClO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(α-phenoxypropionamido)phenyl N-methylcarbamate | 3 grams | CNC(OC1=CC(=C(C=C1)NC(C(C)OC1=CC=CC=C1)=O)C)=O | C18H20N2O4
